US09102621B2
2-Cyclopropyl-3-difluoromethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
Bis(pinacolato)diboron (444 mg, 1.8 mmol) was added to a solution of 2-cyclopropyl-3-(difluoromethoxy)pyridine (270 mg, 1.5 mmol) in dioxane (5 mL). The solution was de-gassed by bubbling N2 through the solution for 30 minutes. The solution was then heated to 90° C., and 4,4-di-tert-butyl-2,2-dipyridyl (4 mg, 0.015 mmol) and cyclooctadiene(dimethoxy) Iridium (I) dimer (10 mg, 0.015 mmol) were added. The flask was de-gassed with N2 (×3), and left at 90° C. for 18 hours. The reaction was cooled then quenched by slow addition of methanol (20 mL) and concentrated to dryness to afford the title compound as a red-brown oil (454 mg). This was used in the subsequent reaction without further purification.

reactant | Bis(pinacolato)diboron | 1.8 mmol, 444 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 2-cyclopropyl-3-(difluoromethoxy)pyridine | 1.5 mmol, 270 mg | C1(CC1)C1=NC=CC=C1OC(F)F | C9H9F2NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Cyclopropyl-3-difluoromethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 454 mg | C1(CC1)C1=NC=C(C=C1OC(F)F)B1OC(C(O1)(C)C)(C)C | C15H20BF2NO3
